US06133258
The reaction and processing procedure of Example 127 was followed except that 30 mg (3.8 mmol) of lithium hydride, 17 ml of DMF, 800 mg (2.8 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one and 1.12 g of N-(2-bromoethyl)-phthalimide were used and post-treatment was carried out. The resulting residue was then purified through silica gel column chromatography (eluant: 1/2 mixture of ethyl acetate and normal hexane) to obtain 883 mg of 2-[2-[2-(4-chlorophenyl)imino]-4-oxo-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-3-yl]ethyl]isoindol-1,3-dione.

reactant | lithium hydride | 3.8 mmol, 30 mg | [H-].[Li+]
reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.8 mmol, 800 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | N-(2-bromoethyl)-phthalimide | 1.12 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | isoindol-1,3-dione | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
